US09303015B2
Methyl 5-bromo-2-(2-phenoxyacetamido)benzoate
To a solution of commercially available methyl 2-amino-5-bromobenzoate (10.0 g, 43.5 mmol) in dichloromethane (100 mL) was added 2-phenoxyacetyl chloride (6.60 mL, 47.8 mmol). The white suspension formed was cooled to 0° C. and treated with triethylamine (13.3 mL, 95.6 mmol) dropwise. The resulting solution was stirred at room temperature for 0.5 hours. The mixture was diluted with CH2Cl2 and was washed with water and saturated aqueous NH4Cl solution. The organic phase was dried (MgSO4), filtered, and concentrated. The residue was purified by flash column chromatography (silica gel, 7% EtOAc-Heptane), affording the title compound.

reactant | methyl 2-amino-5-bromobenzoate | 43.5 mmol, 10.0 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | 2-phenoxyacetyl chloride | 47.8 mmol, 6.60 mL | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | triethylamine | 95.6 mmol, 13.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Methyl 5-bromo-2-(2-phenoxyacetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(COC1=CC=CC=C1)=O | C16H14BrNO4
